US08802659B2
3-methoxy-1-methylnaphthalene
A solution of t-BuOH (44.5 g, 600 mmol) in dry THF (240 mL) was added dropwise to a suspension of NaNH2 (84.4 g, 2.2 mmol) in dry THF (480 mL) under nitrogen. The resulting mixture was heated for 2 h at 40-45° C. After the mixture was cooled, a solution of 4-methoxypent-3-en-2-one (68.5 g, 600 mmol) in dry THF (480 mL) was added dropwise at 30-40° C. The resulting mixture was stirred at 45° C. for 2 h. A solution of bromobenzene (47.1 g, 300 mmol) in dry THF (240 mL) was added and the mixture was stirred at 55° C. for 6 h. The mixture was allowed to cool to room temperature overnight. The mixture was poured into ice, acidified with an aqueous 3 M HCl solution to pH 4-5 and extracted with EtOAc. The combined organic extracts were concentrated under reduced pressure, and the residue was diluted with acetone (480 mL) and stirred with conc. HCl solution (24 mL) for 10 min. The mixture was diluted with EtOAc (200 mL) and washed with saturated brine (200 mL). The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was subjected to flash chromatography (700 g silica gel with dry-loading, eluting by 2% EtOAc in heptanes to give orange oil (19 g, yield: 37%).

reactant | t-BuOH | 600 mmol, 44.5 g | CC(C)(C)O | C4H10O
reactant | 4-methoxypent-3-en-2-one | 600 mmol, 68.5 g | COC(=CC(C)=O)C | C6H10O2
reactant | bromobenzene | 300 mmol, 47.1 g | BrC1=CC=CC=C1 | C6H5Br
reactant | HCl | 3 M | Cl | ClH
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | THF | 480 mL | C1CCOC1 | C4H8O
solvent | THF | 480 mL | C1CCOC1 | C4H8O
solvent | THF | 240 mL | C1CCOC1 | C4H8O
product | 3-methoxy-1-methylnaphthalene | 19 g, yield: 37% | COC=1C=C(C2=CC=CC=C2C1)C | C12H12O
